US04481207
(a) 2-(3,5-Dimethoxyphenyl)-2-isopropylacetonitrile
This is prepared by reacting a solution of 2-(3,5-dimethoxyphenyl)-acetonitrile (4 g, 0.022 mol) in 10 cc of DMF with 2.86 g of isopropyl bromide in 5 cc of DMF, in the presence of a 50% suspension of 1.1 g of sodium hydride in 25 cc of DMF.

reactant | 2-(3,5-dimethoxyphenyl)-acetonitrile | 0.022 mol, 4 g | COC=1C=C(C=C(C1)OC)CC#N | C10H11NO2
reactant | isopropyl bromide | 2.86 g | C(C)(C)Br | C3H7Br
reactant | sodium hydride | 1.1 g | [H-].[Na+]
solvent | DMF | 10 cc | CN(C)C=O | C3H7NO
solvent | DMF | 5 cc | CN(C)C=O | C3H7NO
solvent | DMF | 25 cc | CN(C)C=O | C3H7NO
product | 2-(3,5-Dimethoxyphenyl)-2-isopropylacetonitrile | COC=1C=C(C=C(C1)OC)C(C#N)C(C)C | C13H17NO2
